US07026352B1
(8E,12E,14E)-3,6,21-Tri(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide
Potassium carbonate (138 mg, 0,996 mmol) was added to a solution of (8E,12E,14E)-7-acetoxy-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (250 mg, 0.332 mmol) in methanol (5 mL) at room temperature, followed by stirring at the same temperature for 2 hours. Acetic acid (60 mg, 1 mmol), ethyl acetate and water were added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and then evaporated. The resulting residue was purified by silica gel column chromatography (Kanto silica gel 60N, spherical, neutral, 40 to 50 μm, ethyl acetate-hexane=1:2 and 1:1, successively) to obtain the title compound (242 mg, 100%) as a colorless oil.

reactant | Potassium carbonate | 0,996 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (8E,12E,14E)-7-acetoxy-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.332 mmol, 250 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C)OC(C)OCC)(C)OC(C)OCC | C42H72O11
reactant | Acetic acid | 1 mmol, 60 mg | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
solvent | water | O | H2O
product | (8E,12E,14E)-3,6,21-Tri(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 242 mg, 100% | C(C)OC(C)OC1CC(=O)OC(C(/C=C/C(C(CC1)(C)OC(C)OCC)O)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C | C40H70O10
